US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-2-oxo-1-(4-fluorophenyl)-1,2-dihydropyridine-3-carboxamide
Using N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (150 mg, 0.486 mmol), N,N-dimethylacetamide (3.0 mL), 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid (170 mg, 0.729 mmol), HATU (277 mg, 0.729 mmol) and N,N-diisopropylethylamine (127 μL, 0.729 mmol) and in the same manner as in Example 10, the title compound (181 mg, 71%) was obtained as a white solid.

reactant | N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.486 mmol, 150 mg | NC1=CC=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1 | C17H16N4O2
reactant | 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.729 mmol, 170 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1)C(=O)O)=O | C12H8FNO3
reactant | HATU | 0.729 mmol, 277 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.729 mmol, 127 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylacetamide | 3.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-2-oxo-1-(4-fluorophenyl)-1,2-dihydropyridine-3-carboxamide | 181 mg, 71% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=CC=C(C=C2)NC(=O)C=2C(N(C=CC2)C2=CC=C(C=C2)F)=O)C1 | C29H22FN5O4
